* Z:\mnt\design.r\spice\examples\1529-3.3.asc
V1 IN 0 PWL(0 0 1 10)
C1 OUT 0 47µ
Rload OUT 0 500
XU1 OUT OUT 0 IN IN LT1529-3.3
.tran 1
.lib LT1529.lib
.backanno
.end
